US07186716B2
6-Chloro-3-(1H-pyrrol-2-yl)-1H-pyrazolo[3,4-b]pyridine
A mixture of (2,6-dichloro-pyridin-3-yl)-(1H-pyrrol-2-yl)-methanone (1.8 g) and hydrazine hydrate (0.5 mL) in ethanol (70 mL) was heated at 90° C. for 20 hours. The reaction was concentrated to 40 mL, diluted with water (5 mL) and cooled. The precipitate was collected and dried to give 0.84 g of the titled compound.

reactant | (2,6-dichloro-pyridin-3-yl)-(1H-pyrrol-2-yl)-methanone | 1.8 g | ClC1=NC(=CC=C1C(=O)C=1NC=CC1)Cl | C10H6Cl2N2O
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 6-Chloro-3-(1H-pyrrol-2-yl)-1H-pyrazolo[3,4-b]pyridine | 0.84 g | ClC1=CC=C2C(=N1)NN=C2C=2NC=CC2 | C10H7ClN4
